US09315507B2
3-(4-(Adamantan-1-yl)phenoxy)-1-morpholinopropan-1-one (I-9)
The title compound was prepared from 3-(4-(adamantan-1-yl)phenoxy)propanoic acid (0.2 g, 0.66 mmol) and morpholine (0.058 g, 0.66 mmol) according to the example 1, which was given 3-(4-(adamantan-1-yl)phenoxy)-1-morpholinopropan-1-one as a white solid (0.23 g, 93.4% yield).

reactant | 3-(4-(adamantan-1-yl)phenoxy)propanoic acid | 0.66 mmol, 0.2 g | C12(CC3CC(CC(C1)C3)C2)C2=CC=C(OCCC(=O)O)C=C2 | C19H24O3
reactant | morpholine | 0.66 mmol, 0.058 g | N1CCOCC1 | C4H9NO
product | 3-(4-(adamantan-1-yl)phenoxy)-1-morpholinopropan-1-one | 0.23 g, 93.4% yield | C12(CC3CC(CC(C1)C3)C2)C2=CC=C(OCCC(=O)N3CCOCC3)C=C2 | C23H31NO3
